US06248739B1
N-(4-Chlorobenzyl)-6-(chloromethyl)-1-methyl-4-oxo-1,4-dihydro-3-quinolinecarboxamide
A solution of N-(4-chlorobenzyl)-6-(hydroxymethyl)-1-methyl-4-oxo-1,4-dihydro-3-quinolinecarboxamide from Preparation No. 10 (1.0 g), collidine (0.44 mL), and DMAP (57.9 mg) in anhydrous DMF (48 mL) is cooled to 0° C. Methanesulfonyl chloride (0.24 mL) is added dropwise. The reaction is stirred at room temperature. The crude product is precipitated by addition of water and is filtered. The resulting solid is adsorbed onto silica and purified by chromatography (eluent 100% CH2Cl2 (1 L), 1% MeOH in CH2Cl2 (1 L)). Product-containing fractions were combined and concentrated to afford 948.8 mg (90%) of the title compound as a white solid.

reactant | N-(4-chlorobenzyl)-6-(hydroxymethyl)-1-methyl-4-oxo-1,4-dihydro-3-quinolinecarboxamide | ClC1=CC=C(CNC(=O)C2=CN(C3=CC=C(C=C3C2=O)CO)C)C=C1 | C19H17ClN2O3
reactant | collidine | 0.44 mL | N1=C(C=C(C=C1C)C)C | C8H11N
reactant | Methanesulfonyl chloride | 0.24 mL | CS(=O)(=O)Cl | CH3ClO2S
catalyst | DMAP | 57.9 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DMF | 48 mL | CN(C)C=O | C3H7NO
product | N-(4-Chlorobenzyl)-6-(chloromethyl)-1-methyl-4-oxo-1,4-dihydro-3-quinolinecarboxamide | 948.8 mg, 90% | ClC1=CC=C(CNC(=O)C2=CN(C3=CC=C(C=C3C2=O)CCl)C)C=C1 | C19H16Cl2N2O2
